US06841678B2
Purification of 1-isobutyl-1H-imidazo[4,5-c]quinoline-4-amine
100 ml water and 10 g crude Imiquimod HCl are loaded into a 250 ml reactor. The mixture is heated to 85-90° C. to obtain a solution. 0.2 g sodium hydrosulfite is added and the solution turns from orange to yellow. 1 g of charcoal is added and after 10 minutes at 90-95° C. the charcoal is filtered off and the cake is washed with 10 ml of hot water. To the pale yellow solution obtained, 1 g of charcoal is added and stirred for 10 minutes at 90-95° C. The charcoal is filtered off and the cake is washed with 10 ml hot water. To the colorless solution obtained, 3 g NH4OH(NH3 26%) is added at 80° C. The white suspension obtained is cooled to 20° C. and filtered. The cake is washed three times with 10 ml water. No chloride should be detected by silver nitrate during the washes. The solid is dried under vacuum at 50° C. for 10 hours. A 7 g solid is obtained and the yield is 80.5%.

reactant | Imiquimod HCl | 10 g | CC(C)CN1C=NC2=C1C=3C=CC=CC3N=C2N.Cl
reactant | charcoal | 1 g | C | CH4
reactant | charcoal | 1 g | C | CH4
reactant | NH4OH | 3 g | [NH4+].[OH-]
catalyst | sodium hydrosulfite | 0.2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 100 ml | O | H2O
product | 1-isobutyl-1H-imidazo[4,5-c]quinoline-4-amine | 7 g, yield is 80.5% | C(C(C)C)N1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H16N4
